US04281136
4-Chloro-3-dicyanomethylene-5-ethoxycarbonyl-2-methyl-4-isothiazoline
3,4-Dichloro-5-ethoxycarbonyl-2-methylisothiazolium fluorosulfonate (7.5 g, 0.022 mole) was dissolved in 75 ml of isopropanol. Malononitrile (1.5 g, 0.023 mol) was added the mixture stirred for 30 min. The yellow solid was collected and washed with isopropanol to yield 2.6 g (44%) of product, mp 134-136. Analysis calculated for C10H8ClN3O2S2 : C 44.51; H, 3.00; Cl, 13.16; N, 15.57; S, 11.90. Found: C, 44.34; H, 2.82; Cl, 12.60; N, 14.82; S, 11.42.

reactant | 3,4-Dichloro-5-ethoxycarbonyl-2-methylisothiazolium fluorosulfonate | 0.022 mole, 7.5 g | FS(=O)(=O)[O-].ClC1=[N+](SC(=C1Cl)C(=O)OCC)C
reactant | Malononitrile | 0.023 mol, 1.5 g | C(CC#N)#N | C3H2N2
solvent | isopropanol | 75 ml | C(C)(C)O | C3H8O
product | 4-Chloro-3-dicyanomethylene-5-ethoxycarbonyl-2-methyl-4-isothiazoline | 2.6 g, 44% | ClC=1C(N(SC1C(=O)OCC)C)=C(C#N)C#N | C10H8ClN3O2S
